US08530460B2
7-Bromo-8-fluoro-3,4-dihydro-2H-benzo-[1,4]-dioxepine
To 1.50 g (7.25 mmol) of 4-bromo-5-fluorobenzene-1,2-diol in 25 mL DMF are added 5.90 g (18.1 mmol) Cs2CO3 and 0.89 mL (8.70 mmol) 1,3-dibromopropane.

reactant | 4-bromo-5-fluorobenzene-1,2-diol | 7.25 mmol, 1.50 g | BrC=1C=C(C(=CC1F)O)O | C6H4BrFO2
reactant | Cs2CO3 | 18.1 mmol, 5.90 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1,3-dibromopropane | 8.70 mmol, 0.89 mL | BrCCCBr | C3H6Br2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 7-Bromo-8-fluoro-3,4-dihydro-2H-benzo-[1,4]-dioxepine | BrC=1C(=CC2=C(COCCO2)C1)F | C9H8BrFO2
